US08957215B2
To 4-[5-(6-amino-benzothiazol-2-yl)-pyridin-2-yl]-piperazine-1-carboxylic acid tert-butyl ester (12.7 mg, 0.031 mmol) in DCM (1 mL) was added methanesulfonyl chloride (3 μL, 0.034 mmol) followed by pyridine (3 μL, 0.034 mmol). The r.m. was stirred o.n. at r.t. The crude mixture was purified by flash column chromatography (heptane:ethyl acetate; 50:50 to 40:60), to give intermediate tert-butyl 4-(5-{6-[(methylsulfonyl)amino]-1,3-benzothiazol-2-yl}pyridin-2-yl)piperazine-1-carboxylate (7.4 mg) as a solid. MS m/z (M+H) 490, (M−H) 488. This intermediate was dissolved in DCM (1 mL) and TFA (300 μL) was added. The reaction mixture was thereafter stirred for three hours at r.t. The solvent was removed in a stream of nitrogen and the residue was dissolved in DMF (400 μL) and purified by prep. HPLC, to give the title compound (3 mg) as a white solid. 1H NMR δ 8.71 (d, 1 H) 8.09 (dd, 1 H) 7.72-7.86 (m, 2 H) 7.27 (dd, 1 H) 6.88 (d, 1 H) 3.63-3.77 (m, 4 H) 2.95-3.08 (m, 4 H) 2.90 (s, 3 H); MS m/z M+H 390, M−H 388.

reactant | 4-[5-(6-amino-benzothiazol-2-yl)-pyridin-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.031 mmol, 12.7 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)N | C21H25N5O2S
reactant | methanesulfonyl chloride | 0.034 mmol, 3 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.034 mmol, 3 μL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(5-{6-[(methylsulfonyl)amino]-1,3-benzothiazol-2-yl}pyridin-2-yl)piperazine-1-carboxylate | 7.4 mg | CS(=O)(=O)NC1=CC2=C(N=C(S2)C=2C=CC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C22H27N5O4S2
